US06869962B2
6-methoxy-2-(1-methylethyl)benzofuran
Example 15(a) was prepared from 2-iodo-5-methoxyphenol (896 mg, 3.6 mmole) and 3-methyl-1-butyne in a manner as previously described for example 12a to give 265 mg (38%) of an amber oil. 1H NMR (CDCl3) δ7.33 (1H, d, J=8.6 Hz), 6.97 (1H, d, J=2.2 Hz), 6.80 (1H, dd, J=2.2, 8.6 Hz), 6.26 (1H, s), 3.83 (3H, s), 3.07-3.01 (1H, m), 1.31 (6H, d, J=7.1 Hz).

reactant | 2-iodo-5-methoxyphenol | 3.6 mmole, 896 mg | IC1=C(C=C(C=C1)OC)O | C7H7IO2
reactant | 3-methyl-1-butyne | CC(C#C)C | C5H8
product | 6-methoxy-2-(1-methylethyl)benzofuran | 265 mg, 38% | COC1=CC2=C(C=C(O2)C(C)C)C=C1 | C12H14O2
